US08809342B2
Methyl 6-(3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-ylamino)butyl)nicotinate (190 mg, 0.429 mmol) was dissolved in water (3 mL) and tetrahydrofuran (3 mL). 1N LiOH (54.0 mg, 1.29 mmol) was added. The reaction was stirred at room temperature for 2 hours. The reaction was neutralized with 1N HCl and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered and concentrated to give 6-(3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-ylamino)butyl)nicotinic acid (180 mg, 98%) as a yellow solid. 1H NMR (400 MHz, CD3OD, δ): 9.08 (s, 1H), 8.25 (d, 1H), 7.59-7.63 (m, 5H), 7.38 (d, 2H), 6.63 (d, 2H), 4.65 (m, 1H), 1.85 (m, 2H), 1.65 (m, 1H), 1.00 (m, 6H).

reactant | Methyl 6-(3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-ylamino)butyl)nicotinate | 0.429 mmol, 190 mg | CC(CC(NC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C1=NC=C(C(=O)OC)C=C1)C | C25H25F3N2O2
reactant | LiOH | 1.29 mmol, 1N, 54.0 mg | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | water | 3 mL | O | H2O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 6-(3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-ylamino)butyl)nicotinic acid | 180 mg, 98% | CC(CC(NC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C1=NC=C(C(=O)O)C=C1)C | C24H23F3N2O2
